US04178303
(d) 2-Hydroxyethyl 2-Cyano-3,3-Diphenylacrylate
A charge of 800 ml of methanol, 355 g. (1 mole) of 2-acetoxyethyl 2-cyano-3,3-diphenylacrylate and 10 drops of concentrated hydrochloric acid was heated at 65° C. for 18 hours. Evaporation of the solvent left 235 g. (80%) of the intermediate compound as an amber, viscous oil.

reactant | 2-acetoxyethyl 2-cyano-3,3-diphenylacrylate | 1 mole | C(#N)C(C(=O)OCCOC(C)=O)=C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17NO4
catalyst | hydrochloric acid | 10 drops | Cl | ClH
solvent | methanol | 800 ml | CO | CH4O
product | 2-Hydroxyethyl 2-Cyano-3,3-Diphenylacrylate | C(#N)C(C(=O)OCCO)=C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15NO3
